US08026257B2
tert-Butyl 4-((1-(6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)vinyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
General Note: The reaction was run in such a way as to minimize exposure to light. Reactions were run under a layer of foil to block light and the lab lights were turned off while manipulating the reaction mixtures. To a suspension of titanocenedichloride (0.560 g, 2.198 mmol) in toluene (18 mL) at 0° C. was added methyllithium (1.6 M in diethyl ether, 3.4 mL, 5.5 mmol) dropwise. The reaction was stirred at 0° C. for 1 h. The reaction was quenched by addition of 9 mL of a 6% ammonium chloride solution. The heterogeneous mixture was filtered through a course frit and added to the sep funnel. The layers were separated and the organic layer dried over magnesium sulfate. The solution was filtered and treated with (1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (0.560 g, 0.733 mmol) and N-cyclohexyl-N-methylcyclohexanamine (0.078 mL, 0.366 mmol) and the mixture concentrated to ca. ⅓ its volume. The bath temperature was maintained at 30° C. while the reaction mixture was being concentrated. The reaction flask was flushed with a stream of nitrogen and fitted with a reflux condenser and the resulting solution was placed in an oil bath preheated to 80° C. The bath temperature was set to 80° C. and stirred at that temperature for 2 h. The reaction was diluted with ˜20 mL of hexanes to precipitate some of the titanocenes with stirring. To decompose the remaining titanocene, silica gel (excess) was added as a solid with vigorous stirring to the suspension at 0° C. The ice bath was removed and stirring continued for 15 min. The resulting suspension was filtered and the resulting pad washed with 25% ethyl acetate/n-hexane. The mother liquor was concentrated and loaded onto a silica gel column (10% ethyl acetate/n-hexane). After several volumes at 10%, the gradient was ramped to 25% ethyl acetate/n-hexane to give 470 mg (84%) as a very faint yellow solid. 1H-NMR (CD3OD, 500 MHz) δ 7.36 (dd, J=8.9, 5.2 Hz, 2H), 7.19 (d, J=2.1 Hz, 1H), 7.02 (m, 2H), 6.84 (d, J=2.1 Hz, 1H), 5.24 (s, 2H), 4.59 (s, 2H), 4.43 (d, J=2.7 Hz, 1H), 4.22 (d, J=2.5 Hz, 1H), 3.78 (s, 2H), 3.69 (m, 2H), 3.54 (t, J=7.8 Hz, 2H), 3.26 (m, 2H), 2.94 (bs, 2H), 2.19 (m, 2H), 1.78 (m, 2H), 1.36 (s, 9H), 0.85 (t, J=7.9 Hz, 2H), 0.66 (t, J=7.9 Hz, 2H), −0.10 (s, 9H), −0.16 (s, 9H); 13C NMR (126 MHz, CD3OD) δ ppm 163.0 (d, J=245 Hz), 158.7, 156.5 (d, J=14 Hz), 139.4 (d, J=3.8 Hz), 131.8, 130.6 (d, J=7.7 Hz), 128.3, 125.6, 125.1, 124.1, 116.3 (d, J=21 Hz), 110.7, 89.2, 81.1, 77.8, 71.6, 67.4, 66.9, 41.8, 33.2, 28.7, 18.63, 18.58, −1.29, −1.32. Mass spec.: 784.01 (MNa)+.

reactant | methyllithium | 5.5 mmol, 1.6 M, 3.4 mL | C[Li]
reactant | (1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 0.733 mmol, 0.560 g | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1)C(=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C37H55ClFN3O7Si2
reactant | N-cyclohexyl-N-methylcyclohexanamine | 0.366 mmol, 0.078 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanocenedichloride | 2.198 mmol, 0.560 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ti+2]
product | tert-Butyl 4-((1-(6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)vinyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1)C(=C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C38H57ClFN3O6Si2
